US08912188B2
To a solution of methyl 3-(4-acetylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate (103 mg, 0.25 mmol) in methanol (10 ml) was added NaOH (48 mg, 1.27 mmol). The resulting solution was stirred overnight at room temperature and concentrated in vacuo. The residue was dissolved in water (15 ml) and adjusted to pH 5 with hydrochloric acid (1N). The solids were collected by filtration to afford 3-(4-acetylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a yellow solid (20.8 mg, 21%).

reactant | methyl 3-(4-acetylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.25 mmol, 103 mg | C(C)(=O)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C22H21FN4O3
reactant | NaOH | 1.27 mmol, 48 mg | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 3-(4-acetylpiperazin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | 20.8 mg, 21% | C(C)(=O)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F | C21H19FN4O3
